US05434181
A mixture comprising 10.0 g of (tetrahydro-3-furanyl)methanol, 29.5 g of trifluoromethanesulfonic anhydride, 10.0 g of pyridine and 200 ml of dichloromethane was stirred for an hour at room temperature. Water was poured into the reaction solution to separate the organic layer, which was washed with 1 N hydrochloric acid, water and a saturated saline solution, dried, and concentrated to obtain 20 g of 3-tetrahydro-furanylmethyl triflate. 3.25 g of 60% sodium hydride were added to 12.5 g of 1,5-dimethyl-2-nitroiminohexahydro-1,3,5-triazine and 60 ml of DMF at room temperature, followed by stirring for an hour. 20.0 g of the 3-tetrahydrofuranylmethyl triflate were added thereto, and the mixture was stirred at 50° C. for 2 hours. After cooling the mixture to room temperature, 50 ml of 2 N hydrochloric acid were added thereto, followed by stirring at 50° C. for 2 hours. The resultant mixture was neutralized with sodium bicarbonate and extracted with dichloromethane, and the extract was dried and concentrated. The residue thus obtained was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/1) to obtain 7.8 g of 1-{(tetrahydro-3-furanyl)methyl}-2-nitro-3-methylguanidine.

reactant | (tetrahydro-3-furanyl)methanol | 10.0 g | O1CC(CC1)CO | C5H10O2
reactant | trifluoromethanesulfonic anhydride | 29.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 10.0 g | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 3-tetrahydro-furanylmethyl triflate | 20 g | O(S(=O)(=O)C(F)(F)F)CC1COCC1 | C6H9F3O4S
